US04820821
5.3 g (52.4 millimoles) of triethylamine were added dropwise to 10.0 g (48.2 millimoles) of 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride in 25 ml (26.7 g, 365 millimoles) of methyl isothiocyanate at room temperature, while stirring. After the addition was complete, the reaction mixture was diluted with 50 ml of acetone and stirred for a further 2 hours at room temperature. The product was filtered off under suction, washed with water and acetone and recrystallized from dimethylformamide/water. The crystals obtained were suspended in 25 ml of acetone, filtered off under suction, again suspended in 25 ml of acetone and filtered off under suction, and the product was recrystallized from isopropanol. 2.8 g (24% of theory) of 1,4-dihydro-4-(methylthiocarbamyl)-imino-1-phenylpyridazine were isolated as yellow crystals of melting point 177°-178° C. (decomposition).

reactant | triethylamine | 52.4 millimoles, 5.3 g | C(C)N(CC)CC | C6H15N
reactant | 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride | 48.2 millimoles, 10.0 g | Cl.N=C1C=NN(C=C1)C1=CC=CC=C1
reactant | methyl isothiocyanate | 365 millimoles, 25 ml, 26.7 g | CN=C=S | C2H3NS
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 1,4-dihydro-4-(methylthiocarbamyl)-imino-1-phenylpyridazine | 2.8 g, 24% | CNC(=S)C1C(NN(C=C1)C1=CC=CC=C1)=N | C12H14N4S
